### PR TITLE
feat(Topology): easy lemmas around cofinite and indiscrete spaces

### PR DESCRIPTION
**Pull request by felixpernegger**
I also think that `CofiniteTopology` should be Prop valued and not as it is right now (and make that maybe `WithCofiniteTopology`). This ought to be easier to work with and is more consistent with `(In)DiscreteTopology`

See https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60CofiniteTopology.60.20should.20be.20Prop.20valued/with/602515039

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks for this PR! I started reviewing this - and then realised this might be a nice one for @scholzhannah to practice at. Would you like to try? (I can re-review afterwards.)

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 1]
```diff
@@ -577,6 +577,28 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
...
+  (Homeomorph.ofIndiscrete f).isHomeomorph
+
+/-- A bijection between cofinite topological spaces induces a homeomorphism. -/
+def Homeomorph.ofCofinite (f : CofiniteTopology X ≃ CofiniteTopology Y) :
+    CofiniteTopology X ≃ₜ CofiniteTopology Y where
+  toEquiv := f
+  continuous_toFun := CofiniteTopology.continuous_of_injective f.injective
+  continuous_invFun := CofiniteTopology.continuous_of_injective f.symm.injective
+
+theorem Equiv.isHomeomorph_of_cofinite {X Y : Type*} (f : CofiniteTopology X ≃ CofiniteTopology Y) :
```
Comment (vlad902) [inline Mathlib/Topology/Homeomorph/Lemmas.lean]:
```suggestion
theorem Equiv.isHomeomorph_of_cofinite (f : CofiniteTopology X ≃ CofiniteTopology Y) :
```

File: Mathlib/Topology/Separation/Basic.lean [hunk 2]
```diff
@@ -804,6 +804,17 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
     rw [mk_eq_mk, inseparable_iff_specializes_and]
     exact ⟨xspecy, yspecx⟩
 
+theorem CofiniteTopology.continuous_of_finite_preimage_singleton {X : Type*} [TopologicalSpace Y]
+    [T1Space Y] {f : Y → CofiniteTopology X} (h : ∀ a, (f ⁻¹' {a}).Finite) : Continuous f := by
+  refine continuous_iff_isClosed.mpr fun s hs ↦ ?_
+  rcases CofiniteTopology.isClosed_iff.1 hs with rfl | hs
```
Comment (vlad902) [inline Mathlib/Topology/Separation/Basic.lean]:
```suggestion
  rcases CofiniteTopology.isClosed_iff.mp hs with rfl | hs
```

File: Mathlib/Topology/Separation/Basic.lean [hunk 3]
```diff
@@ -804,6 +804,17 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
     rw [mk_eq_mk, inseparable_iff_specializes_and]
     exact ⟨xspecy, yspecx⟩
 
+theorem CofiniteTopology.continuous_of_finite_preimage_singleton {X : Type*} [TopologicalSpace Y]
```
Comment (vlad902) [inline Mathlib/Topology/Separation/Basic.lean]:
```suggestion
theorem CofiniteTopology.continuous_of_finite_preimage_singleton [TopologicalSpace Y]
```

File: Mathlib/Topology/Separation/Basic.lean [hunk 4]
```diff
@@ -804,6 +804,17 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
...
+    [T1Space Y] {f : Y → CofiniteTopology X} (h : ∀ a, (f ⁻¹' {a}).Finite) : Continuous f := by
+  refine continuous_iff_isClosed.mpr fun s hs ↦ ?_
+  rcases CofiniteTopology.isClosed_iff.1 hs with rfl | hs
+  · simp only [preimage_univ, isClosed_univ]
+  · exact (hs.preimage' fun b _ ↦ h b).isClosed
+
+theorem CofiniteTopology.continuous_of_injective {X Y : Type*} [TopologicalSpace Y] [T1Space Y]
```
Comment (vlad902) [inline Mathlib/Topology/Separation/Basic.lean]:
```suggestion
theorem CofiniteTopology.continuous_of_injective [TopologicalSpace Y] [T1Space Y]
```

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 5]
```diff
@@ -577,6 +577,28 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
     (f : X ≃ Y) : IsHomeomorph f :=
   (Homeomorph.ofDiscrete f).isHomeomorph
 
+/-- A bijection between indiscrete topological spaces induces a homeomorphism. -/
+def Homeomorph.ofIndiscrete [IndiscreteTopology X] [IndiscreteTopology Y] (f : X ≃ Y) :
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:581]: The factt that this is very inconvenient to state without `TopologicalSpace X` is further evidence `CofiniteTopology` ought to be `Prop` valued

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 6]
```diff
@@ -577,6 +577,29 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
...
+    X ≃ₜ Y where
+  toEquiv := f
+  continuous_toFun := continuous_of_indiscreteTopology
+  continuous_invFun := continuous_of_indiscreteTopology
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:585]: To me it seems like this lemma should maybe be marked as `fun_prop`.

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 7]
```diff
@@ -577,6 +577,29 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
...
+
+theorem Equiv.isHomeomorph_of_indiscrete [IndiscreteTopology X] [IndiscreteTopology Y]
+    (f : X ≃ Y) : IsHomeomorph f :=
+  (Homeomorph.ofIndiscrete f).isHomeomorph
+
+/-- A bijection between cofinite topological spaces induces a homeomorphism. -/
+def Homeomorph.ofCofinite (f : CofiniteTopology X ≃ CofiniteTopology Y) :
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:592]: I am not sure about this but would it possibly more convenient for applications to have `(f : X ≃ Y)` as an assumption?

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 8]
```diff
@@ -577,6 +577,29 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
...
+    CofiniteTopology X ≃ₜ CofiniteTopology Y where
+  toEquiv := f
+  continuous_toFun := CofiniteTopology.continuous_of_injective f.injective
+  continuous_invFun := CofiniteTopology.continuous_of_injective f.symm.injective
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:596]: Again, one could write an extra lemma here and tag it with `fun_prop`, though I am not sure if that particular lemma would be too useful.

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 9]
```diff
@@ -577,6 +577,29 @@ theorem Equiv.isHomeomorph_of_discrete [DiscreteTopology X] [DiscreteTopology Y]
...
+
+omit [TopologicalSpace X] [TopologicalSpace Y] in
+theorem Equiv.isHomeomorph_of_cofinite (f : CofiniteTopology X ≃ CofiniteTopology Y) :
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:599]: Same question as above

File: Mathlib/Topology/Separation/Basic.lean [hunk 10]
```diff
@@ -804,6 +804,19 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
     rw [mk_eq_mk, inseparable_iff_specializes_and]
     exact ⟨xspecy, yspecx⟩
 
+omit [TopologicalSpace X] in
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Basic.lean:807]: If you switch the variable names `X` and `Y`, this should make the typeclasses of this declaration more readable.

File: Mathlib/Topology/Separation/Basic.lean [hunk 11]
```diff
@@ -804,6 +804,19 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
...
+theorem CofiniteTopology.continuous_of_finite_preimage_singleton [TopologicalSpace Y]
+    [T1Space Y] {f : Y → CofiniteTopology X} (h : ∀ a, (f ⁻¹' {a}).Finite) : Continuous f := by
+  refine continuous_iff_isClosed.mpr fun s hs ↦ ?_
+  rcases CofiniteTopology.isClosed_iff.mp hs with rfl | hs
+  · simp only [preimage_univ, isClosed_univ]
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Basic.lean:812]:
```suggestion
  · simp
```
I don't think there is a particular need to squeeze this, is there?

File: Mathlib/Topology/Separation/Basic.lean [hunk 12]
```diff
@@ -804,6 +804,19 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
     rw [mk_eq_mk, inseparable_iff_specializes_and]
     exact ⟨xspecy, yspecx⟩
 
+omit [TopologicalSpace X] in
+theorem CofiniteTopology.continuous_of_finite_preimage_singleton [TopologicalSpace Y]
+    [T1Space Y] {f : Y → CofiniteTopology X} (h : ∀ a, (f ⁻¹' {a}).Finite) : Continuous f := by
+  refine continuous_iff_isClosed.mpr fun s hs ↦ ?_
+  rcases CofiniteTopology.isClosed_iff.mp hs with rfl | hs
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Basic.lean:811]:
```suggestion
  rcases CofiniteTopology.isClosed_iff.mp hs with rfl | ht
```
I think it's nicer to not shadow the other `hs` even though it doesn't really matter.

File: Mathlib/Topology/Separation/Basic.lean [hunk 13]
```diff
@@ -804,6 +804,19 @@ theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Sp
...
+  · simp only [preimage_univ, isClosed_univ]
+  · exact (hs.preimage' fun b _ ↦ h b).isClosed
+
+omit [TopologicalSpace X] in
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Basic.lean:815]: Again, you could switch the variable names.

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! I think we definitely want these statements. I have left some small comments and some design questions that I am unsure about.

**Comment by scholzhannah** [comment]
Could you also move your comment about the design of `CofiniteTopology` below the line in the PR description? I don't think it has enough to do with this PR to go into the commit message. You should probably also discuss this on Zulip instead.

File: Mathlib/Topology/Separation/Basic.lean (hunk 11 above)
Comment (grunweg) [reply Mathlib/Topology/Separation/Basic.lean:812]: The style guide actually prefers *terminal* simps to be un-squeezed (unless there is a reason not to, such as performance --- in which case, there should be a comment).

Comment (scholzhannah) [reply Mathlib/Topology/Separation/Basic.lean:812]: Doesn't it say that a terminal `simp` shouldn't be squeezed unless necessary?

Comment (grunweg) [reply Mathlib/Topology/Separation/Basic.lean:812]: Er, right. I meant un-squeezed: the style guide says that putting `simp` here is preferred over `simp only [...]`

**Comment by felixpernegger** [comment]
> Could you also move your comment about the design of `CofiniteTopology` below the line in the PR description? I don't think it has enough to do with this PR to go into the commit message. You should probably also discuss this on Zulip instead.

See https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60CofiniteTopology.60.20should.20be.20Prop.20valued/with/602515039

**Comment by felixpernegger** [comment]
I continue with this once #40552 is merged
